US06627651B1
3-Propoxybenzaldehyde (15.47 g) and methyl (triphenylphosphoranylidene)acetate was suspended in toluene (150 ml), and the resulting suspension was heated at reflux for 2 hours. The reaction mixture was diluted with ethyl acetate and was washed respectively with water and an aqueous saturated solution of sodium chloride, and the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure to remove the solvent, the precipitated triphenylphosphine oxide was removed and was washed with ether. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to obtain ethyl 2-propoxycinnamate (21.24 g) as a yellow oil.

reactant | 3-Propoxybenzaldehyde | 15.47 g | C(CC)OC=1C=C(C=O)C=CC1 | C10H12O2
reactant | methyl (triphenylphosphoranylidene)acetate | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-propoxycinnamate | 21.24 g | C(CC)OC1=C(C=CC(=O)OCC)C=CC=C1 | C14H18O3
